US06329392B1
Combine (R, R)-di-p-anisoyltartaric acid (1.10 g, 2.62 mmol) in water/methanol (13.6 mL/13.6 mL). Add 12 M hydrochloric acid solution (0.217 mL, 2.63 mmol). Add a hot solution of 3-phenyl-3-(2-hydroxy-ethyl)-pyrrolidine (1.0 g, 5.23 mmol) in methanol (13.6 mL). Heat to reflux. After 30 minutes, slowly cool to ambient temperature to give a solid. Collect the solid by filtration and recrystallize the solid twice from methanol/water, once from methanol/2-butanone, and once from ethanol to give (+)-3-phenyl-3-(2-hydroxy-ethyl)-pyrrolidine (R, R)-di-p-anisoyltartaric acid-hydrochloric acid salt. After conversion of a sample to the 3,4,5-trimethoxybenzamide using sodium carbonate and 3,4,5-trimethoxybenzoyl chloride in acetone/water, analysis on HPLC using a CHIRALPAK AD (10 μm×4.6 cm×250 cm) column eluting with pentane/ethanol/methanol/triethylamine (80/15/5/0.1) with a flow rate of 1.5 mL/minute indicates an enantiomeric excess of 98%, (98% ee), retention time 22.30 minutes for the 3,4,5-trimethoxybenzamide of the (+)-isomer.

reactant | (R, R)-di-p-anisoyltartaric acid | 2.62 mmol, 1.10 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
reactant | hydrochloric acid | 2.63 mmol, 12 M, 0.217 mL | Cl | ClH
reactant | 3-phenyl-3-(2-hydroxy-ethyl)-pyrrolidine | 5.23 mmol, 1.0 g | C1(=CC=CC=C1)C1(CNCC1)CCO | C12H17NO
solvent | water methanol | 13.6 mL | O.CO
solvent | methanol | 13.6 mL | CO | CH4O
product | (+)-3-phenyl-3-(2-hydroxy-ethyl)-pyrrolidine (R, R)-di-p-anisoyltartaric acid-hydrochloric acid salt | Cl.C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.C1(=CC=CC=C1)C1(CNCC1)CCO | InChI=1S/C20H18O10.C12H17NO.ClH/c1-29-13-7-3-11(4-8-13)15(21)19(27,17(23)24)20(28,18(25)26)16(22)12-5-9-14(30-2)10-6-12;14-9-7-12(6-8-13-10-12)11-4-2-1-3-5-11;/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-5,13-14H,6-10H2;1H/t19-,20-;;/m1../s1
